US07595415B2
3-(3,4-dimethoxyphenyl)propionic acid amide (20.5 mg, 0.1 mmol) prepared in the same manner as in Reference Synthetic Example 8 was dissolved in tetrahydrofuran (2 ml) in nitrogen atmosphere, and under cooling with ice, tetrakistriphenylphosphine palladium(0) (5 mg, 0.004 mmol) was added, and then a tetrahydrofuran solution (0.5 ml) of tri-n-butyltin hydride (35 μl, 0.13 mmol) was dropwise added. After stirring for 30 minutes, the solution was concentrated under reduced pressure, and the residue was purified by tin-layer silica gel column chromatography (hexane:ethyl acetate=1:1) to give (E)-2-(tributylstannyl)-3-(3,4-dimethoxyphenyl)acrylamide (14.8 mg, 30%) as a pale yellow oily substance.

reactant | 3-(3,4-dimethoxyphenyl)propionic acid amide | 0.1 mmol, 20.5 mg | COC=1C=C(C=CC1OC)CCC(=O)N | C11H15NO3
reactant | tri-n-butyltin hydride | 0.13 mmol, 35 μl | C(CCC)[SnH](CCCC)CCCC
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | (E)-2-(tributylstannyl)-3-(3,4-dimethoxyphenyl)acrylamide | 14.8 mg, 30% | C(CCC)[Sn](\C(\C(=O)N)=C\C1=CC(=C(C=C1)OC)OC)(CCCC)CCCC | InChI=1S/C11H12NO3.3C4H9.Sn/c1-14-9-5-3-8(4-6-11(12)13)7-10(9)15-2;3*1-3-4-2;/h3-5,7H,1-2H3,(H2,12,13);3*1,3-4H2,2H3;
